US08686002B2
3-(2,6-Dimethoxybenzyl)-7-(4-methoxyphenyl)-3,4-dihydroquinazolin-2-aminium acetate
Synthesis was performed according to EXAMPLE 82 from 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine and 4-methoxyphenylboric acid in a CEM microwave at 100° C. (120 watt) for 120 minutes.

reactant | 7-bromo-3-(2,6-dimethoxybenzyl)-3,4-dihydroquinazolin-2-amine | BrC1=CC=C2CN(C(=NC2=C1)N)CC1=C(C=CC=C1OC)OC | C17H18BrN3O2
reactant | 4-methoxyphenylboric acid | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
product | 3-(2,6-Dimethoxybenzyl)-7-(4-methoxyphenyl)-3,4-dihydroquinazolin-2-aminium acetate | C(C)(=O)[O-].COC1=C(CN2C(=NC3=CC(=CC=C3C2)C2=CC=C(C=C2)OC)[NH3+])C(=CC=C1)OC | InChI=1S/C24H25N3O3.C2H4O2/c1-28-19-11-9-16(10-12-19)17-7-8-18-14-27(24(25)26-21(18)13-17)15-20-22(29-2)5-4-6-23(20)30-3;1-2(3)4/h4-13H,14-15H2,1-3H3,(H2,25,26);1H3,(H,3,4)
